US04704459
In 3 ml of ethanol was suspended 120 mg of 3-aminopyrrolidine dihydrochloride, and 250 mg of triethylamine was added thereto, after which 300 mg of ethyl 7-benzenesulfinyl-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate was added thereto. The resulting mixture was subjected to reaction at room temperature for 3 hours, and to the reaction mixture was added 10 ml of diethyl ether, after which crystals were collected by filtration, and washed with 12 ml of water to obtain 230 mg (yield 83.8%) of ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate. The physical properties of this compound were identical with those of the compound obtained in Example 64.

reactant | 3-aminopyrrolidine dihydrochloride | 120 mg | Cl.Cl.NC1CNCC1
reactant | triethylamine | 250 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 7-benzenesulfinyl-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 300 mg | C1(=CC=CC=C1)S(=O)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C23H15F3N2O4S
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 230 mg, yield 83.8% | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C21H19F3N4O3
